US07816385B2
3-[4′-(3-Hydroxy-propyl)-2,2′-bis-trifluoromethyl-biphenyl-4-yl]-propan-1-ol
2,2′-Bistrifluoromethylbiphenyl-4,4′-diacrylic acid dimethyl ester (11.5 g, 25.1 mmol) was dissolved in 200 ml polyethylene glycol (PEG 400) and sodium borohydride (6.5 g, 172 mmol) was added gradually during 30 min at 130° C. The mixture was heated at this temperature for 6 h. After cooling water was added, the mixture was extracted with chloroform, dried (MgSO4) and evaporated to give a residue which was submitted to chromatography on silica gel. Elution with ethyl acetate afforded 3.57 g (35%) of the title compound as an oil.

reactant | 2,2′-Bistrifluoromethylbiphenyl-4,4′-diacrylic acid dimethyl ester | 25.1 mmol, 11.5 g | COC(C=CC1=CC(=C(C=C1)C1=C(C=C(C=C1)C=CC(=O)OC)C(F)(F)F)C(F)(F)F)=O | C22H16F6O4
reactant | sodium borohydride | 172 mmol, 6.5 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 3-[4′-(3-Hydroxy-propyl)-2,2′-bis-trifluoromethyl-biphenyl-4-yl]-propan-1-ol | 3.57 g, 35% | OCCCC1=CC(=C(C=C1)C1=C(C=C(C=C1)CCCO)C(F)(F)F)C(F)(F)F | C20H20F6O2
